US06743939B2
c) 2-[1-(2,5-Dichlorophenoxy)-4-iodobutyl]thiophene
2-[4-Chloro-1-(2,5-dichlorophenoxy)butyl]thiophene (2.4 g, 7.1 mmol) was dissolved in a saturated solution of sodium iodide in acetone (200 ml) and the reaction refluxed for 20 hours. The reaction mixture was cooled and the solid filtered off. The filtrate was evaporated in vacuo and the residue taken up in water (50 ml). The mixture was extracted with diethyl ether (3×70 ml) and the combined organic portions were washed with water (3×30 ml), dried (magnesium sulphate), filtered and evaporated in vacuo to give the title compound as a pale straw coloured oil (2.91 g, 95%).

reactant | 2-[4-Chloro-1-(2,5-dichlorophenoxy)butyl]thiophene | 7.1 mmol, 2.4 g | ClCCCC(OC1=C(C=CC(=C1)Cl)Cl)C=1SC=CC1 | C14H13Cl3OS
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-[1-(2,5-Dichlorophenoxy)-4-iodobutyl]thiophene | 2.91 g, 95% | ClC1=C(OC(CCCI)C=2SC=CC2)C=C(C=C1)Cl | C14H13Cl2IOS
